data/pmechdb/original/mc_train_fold0/raw/train.txt
C[CH:20](C)[Br:21].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3>>C[CH:20](C)[P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[Br-:21] 10=20;20,21=21
[H:20][OH2+:21].CCC1=C(C=C(C=C1)C=C(CC(=O)[O-:10])C(=O)OC)O.CO.C[OH+][Na].[Cl-]>>[H:20][O:10]C(=O)CC(=CC1=CC(=C(C=C1)CC)O)C(=O)OC.[OH2:21].CO.C[OH+][Na].[Cl-] 10=20;20,21=21
CC(C)(C)OC(=O)NCCCCCC[O-:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br>>CC(C)(C)OC(=O)NCCCCCC[O:10][P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br 10=20,
[H:20][N+:21](CC)(CC)CC.CCO.CC1=C(C2=C(N1)C=CC=C2)C3=C4C(=CC(=C3)[O-:10])C(=C5N4CCCN5)C(=O)C6=CC=C(C=C6)OC.O>>[H:20][O:10]C1=CC(=C2C(=C1)C(=C3N2CCCN3)C(=O)C4=CC=C(C=C4)OC)C5=C(NC6=C5C=CC=C6)C.CC[N:21](CC)CC.CCO.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(C)[CH:11]=[CH2:10]>>[H:20][CH2:10][CH+:11]C(C)C.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CC=CC1CCCC(C1[NH2:10])C.[CH3:20][I:21]>>CC=CC1CCCC(C1[NH2+:10][CH3:20])C.[I-:21] 10=20;20,21=21
C[O+:21]=[CH2:20].[F-:10]>>C[O:21][CH2:20][F:10] 10=20;20,21=21
[H:20][Br:21].C[C:11]1=[CH:10]CCCC1(C)C>>[H:20][CH:10]1CCCC([C+:11]1C)(C)C.[Br-:21] 10,11=10,20;20,21=21
[H:20][N+:21](=C1CC(C2=CC=CC=C12)CC)O.O.[OH-:10]>>[H:20][OH:10].CCC1CC(=[N:21]O)C2=CC=CC=C12.O 10=20;20,21=21
[H:20][C:21]1=[N+](C(=C(S1)CCO)C)C.CC[N:10](CC)CC.CCO.C1=CC=C(C=C1)C=O.C1=CSC(=C1)C(=O)C=CC2=CC=C(C=C2)C#N.[I-]>>[H:20][N+:10](CC)(CC)CC.CC1=C(S[C-:21]=[N+]1C)CCO.CCO.C1=CC=C(C=C1)C=O.C1=CSC(=C1)C(=O)C=CC2=CC=C(C=C2)C#N.[I-] 10=20;20,21=21
CCCCCCCCC=CCCCCCCCC(=O)OCC1C[O:10][C:20]([OH+:21]1)(C)C.C1CCOC1.C(=O)(C(F)(F)F)[O-].O>>CCCCCCCCC=CCCCCCCCC(=O)OCC(C[O+:10]=[C:20](C)C)[OH:21].C1CCOC1.C(=O)(C(F)(F)F)[O-].O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCN[C:11](=[CH:10]CSCC)[OH:12]>>[H:20][CH:10](CSCC)[C:11](=[OH+:12])NCC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21][P:22](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[NH2+:23]CC(=O)OCCC.[OH2:10].N#N>>[H:20][OH2+:10].CCCOC(=O)C[NH2:23].C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.N#N 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1=C2CCCCCN2CCC1.CC(=O)NC1=CC=C(C=C1)S(=O)(=O)[NH-:10].C1=CC=C(C=C1)CN2C3=C(C=CC=C3)C(C2=O)OC(=O)C(=[N+]=[N-])C4=CC=CC=C4>>[H:20][NH:10]S(=O)(=O)C1=CC=C(C=C1)NC(=O)C.C1CCC2=[N:21]CCCN2CC1.C1=CC=C(C=C1)CN2C3=C(C=CC=C3)C(C2=O)OC(=O)C(=[N+]=[N-])C4=CC=CC=C4 10=20;20,21=21
C[OH+:11][CH:10]1CC2C3CC4=C(C2(CCN3CC=C)C=C1O)C(=C(C=C4)OC)O>>C[OH:11].COC1=C(C2=C(CC3C4C2(CCN3CC=C)C=C([CH+:10]C4)O)C=C1)O 10,11=11
CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)([CH:20]([OH:10])[SH+:21]C4=CC=CC=C4)O.CC(=O)[O-].[Na+]>>CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)([CH:20]=[OH+:10])O.C1=CC=C(C=C1)[SH:21].CC(=O)[O-].[Na+] 10=20;20,21=21
[H:10][C:11]1(CCCCC1CC)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCCCC1CC.CC(C)[O-] 10,11=10,20;20,21=21;12=11
C[CH:20]=[N+:21](C)C.[I-:10]>>C[CH:20]([N:21](C)C)[I:10] 10=20;20,21=21
[H:20][O+:21]1C(=CCC1(C2=CC=CC=C2)O)C.[OH2:10].OS(=O)(=O)[O-]>>[H:20][OH2+:10].CC1=CCC([O:21]1)(C2=CC=CC=C2)O.OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][N+:21](C)(C)C1=CC(=CC=C1)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[N:21](C)C1=CC(=CC=C1)[N+](=O)[O-] 10=20;20,21=21
C1=CC=C(C=C1)N2C(=O)[CH:20]=[CH:21][C:22]2=[O:23].C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.CC(=O)O>>C1=CC=C(C=C1)N2[C:22](=[CH:21][CH:20](C2=O)[P+:10](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)[O-:23].CC(=O)O 10=20;22,23=23;20,21=21,22
[H:20][NH+:21](CC)C(C)([O-])OC(=O)C.[OH2:10]>>[H:20][OH2+:10].CC[NH:21]C(C)([O-])OC(=O)C 10=20;20,21=21
[H:10][BH2-:11]OCC.CCCC(CC(=O)OC(C)(C)C)[CH:20]=[O:21].C(=O)=O.[Na+]>>[H:10][CH:20](C(CCC)CC(=O)OC(C)(C)C)[O-:21].[BH2:11]OCC.C(=O)=O.[Na+] 10,11=10,20;20,21=21
[H:20][OH+:21]CC.CC[OH+]C(=[N:10]C(C)(C=CC1CC(CCC1C(C)C)C)C(C)C)[O-]>>[H:20][N+:10](=C([O-])[OH+]CC)C(C)(C=CC1CC(CCC1C(C)C)C)C(C)C.CC[OH:21] 10=20;20,21=21
CC1CC(C2[C+:20](C1(CCC2(C)C=C)C)[CH2:10][Si-:11](C)(C)(C)Cl)O[Zn-](Cl)Cl>>CC1CC(C2[C:20](=[CH2:10])C1(CCC2(C)C=C)C)O[Zn-](Cl)Cl.C[Si:11](C)(C)Cl 10,11=10,20
CN(C)[CH:20]=[N+:21](C)C.[OH2:10].[Cl-]>>CN(C)[CH:20]([N:21](C)C)[OH2+:10].[Cl-] 10=20;20,21=21
[B:20](Br)(Br)Br.C[O:10]C1=C2C3=C(CC4C5(C3(CCN4CC=C)C(O2)C(=O)CC5)O)C=C1>>[B-:20]([O+:10](C)C1=C2C3=C(CC4C5(C3(CCN4CC=C)C(O2)C(=O)CC5)O)C=C1)(Br)(Br)Br 10=20,
[H:20][O+:21]1CCOC1C2=CC(=CC=C2Br)F.[OH2:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>C1COC([O:21]1)C2=CC(=CC=C2Br)F.[H:20][OH2+:10].CC1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][OH2+:21].O[P:11](=[O:10])(O)O>>[H:20][O:10][P+:11](O)(O)O.[OH2:21] 10,11=10,20;20,21=21
C1=C[N-:12][CH:11]=[CH:10][C:20]1(N)[Cl:21]>>C1=C[N:12]=[CH:11][CH:10]=[C:20]1N.[Cl-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.C1=CC=C(C=C1)CC(=[O:10])O.C1CCC(CC1)O>>[H:20][O+:10]=C(CC1=CC=CC=C1)O.OS(=O)(=O)[O-:21].C1CCC(CC1)O 10=20;20,21=21
